### PR TITLE
[Merged by Bors] - chore(CategoryTheory/Limits): limit properties of `MorphismProperty.Under`

### PR DESCRIPTION
**Pull request by chrisflav**
Dual versions of existing properties for `MorphismProperty.Over`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Limits/MorphismProperty.lean [hunk 1]
```diff
@@ -132,6 +132,44 @@ end
...
+    [P.ContainsIdentities] [P.RespectsIso] :
+    (P.structuredArrowObj L (X := L.obj Y)).IsClosedUnderColimitsOfShape (Discrete PEmpty.{1}) where
+  colimitsOfShape_le := by
+    rintro X ⟨p⟩
+    let e : X ≅ StructuredArrow.mk (𝟙 (L.obj Y)) :=
+      p.isColimit.coconePointUniqueUpToIso ((IsColimit.precomposeInvEquiv
+        (Functor.emptyExt _ _) _).2 StructuredArrow.mkIdInitial)
+    rw [MorphismProperty.structuredArrowObj_iff,
+      P.structuredArrow_iso_iff e]
+    simpa using P.id_mem (L.obj Y)
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Limits/MorphismProperty.lean]: May I suggest a slight detour here?

I think it would be nice to have somewhere something like
```lean
lemma colimitsOfShape_isEmpty_iff (P : ObjectProperty C) (E : Type*) [Category* E] [IsEmpty E] (x : C) :
    P.colimitsOfShape E x ↔ Nonempty (IsInitial x) := by
  refine ⟨fun ⟨⟨f, p, q⟩, d⟩ ↦ 
    .intro <| isColimitEquivIsInitialOfIsEmpty _ _ q, fun ⟨h⟩ ↦ ?_⟩
  sorry
```
to record that `P.colimitsOfShape` is a no-op when there are no objects.

Then this proof can be
```lean
    rintro X p
    letI t : IsInitial X := (ObjectProperty.colimitOfShape_isEmpty_iff _ _ _|>.mp p).some
    let e : X ≅ StructuredArrow.mk (𝟙 (L.obj Y)) := t.uniqueUpToIso StructuredArrow.mkIdInitial
    simpa [MorphismProperty.structuredArrowObj_iff,
      P.structuredArrow_iso_iff e] using P.id_mem (L.obj Y)
```

**Review by robin-carlier — COMMENTED** [review]
Can you mention in the PR description that this is mostly dualizing existing things?

File: Mathlib/CategoryTheory/Limits/MorphismProperty.lean (hunk 1 above)
Comment (chrisflav) [reply Mathlib/CategoryTheory/Limits/MorphismProperty.lean]: Thanks for the suggestion! I have added your lemma, including the dual one and used it here and in the `CostructuredArrow` analog.

File: Mathlib/CategoryTheory/ObjectProperty/ColimitsOfShape.lean [hunk 2]
```diff
@@ -401,6 +401,18 @@ instance [P.IsClosedUnderColimitsOfShape WalkingParallelPair] :
...
+    P.limitsOfShape J X ↔ Nonempty (IsTerminal X) := by
+  refine ⟨fun ⟨⟨f, p, q⟩, d⟩ ↦
+    .intro <| isLimitEquivIsTerminalOfIsEmpty _ _ q, fun ⟨h⟩ ↦ ?_⟩
+  exact ⟨⟨(Functor.const _).obj X, 𝟙 _, (isLimitEquivIsTerminalOfIsEmpty _ _).symm h⟩, by simp⟩
+
+lemma colimitsOfShape_isEmpty_iff [IsEmpty J] (X : C) :
+    P.colimitsOfShape J X ↔ Nonempty (IsInitial X) := by
+  refine ⟨fun ⟨⟨f, p, q⟩, d⟩ ↦
+    .intro <| isColimitEquivIsInitialOfIsEmpty _ _ q, fun ⟨h⟩ ↦ ?_⟩
+  exact ⟨⟨(Functor.const _).obj X, 𝟙 _, (isColimitEquivIsInitialOfIsEmpty _ _).symm h⟩, by simp⟩
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/ObjectProperty/ColimitsOfShape.lean]: Since the proof are `refine …; exact`, I think at this point we can just go full term mode:

```suggestion
lemma limitsOfShape_isEmpty_iff [IsEmpty J] (X : C) :
    P.limitsOfShape J X ↔ Nonempty (IsTerminal X) :=
  ⟨fun ⟨⟨f, p, q⟩, d⟩ ↦ .intro <| isLimitEquivIsTerminalOfIsEmpty _ _ q, fun ⟨h⟩ ↦
    ⟨⟨(Functor.const _).obj X, 𝟙 _, (isLimitEquivIsTerminalOfIsEmpty _ _).symm h⟩, by simp⟩⟩

lemma colimitsOfShape_isEmpty_iff [IsEmpty J] (X : C) :
    P.colimitsOfShape J X ↔ Nonempty (IsInitial X) :=
  ⟨fun ⟨⟨f, p, q⟩, d⟩ ↦ .intro <| isColimitEquivIsInitialOfIsEmpty _ _ q, fun ⟨h⟩ ↦
    ⟨⟨(Functor.const _).obj X, 𝟙 _, (isColimitEquivIsInitialOfIsEmpty _ _).symm h⟩, by simp⟩⟩
```

File: Mathlib/CategoryTheory/Limits/MorphismProperty.lean [hunk 3]
```diff
@@ -100,13 +100,11 @@ instance CostructuredArrow.closedUnderLimitsOfShape_discrete_empty [L.Faithful]
...
   limitsOfShape_le := by
-    rintro X ⟨p⟩
-    let e : X ≅ CostructuredArrow.mk (𝟙 (L.obj Y)) :=
-      p.isLimit.conePointUniqueUpToIso ((IsLimit.postcomposeInvEquiv
-        (Functor.emptyExt _ _) _).2 CostructuredArrow.mkIdTerminal)
-    rw [MorphismProperty.costructuredArrowObj_iff,
-      P.costructuredArrow_iso_iff e]
-    simpa using P.id_mem (L.obj Y)
+    rintro X p
+    letI t : IsTerminal X := (ObjectProperty.limitsOfShape_isEmpty_iff _ _ _|>.mp p).some
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Limits/MorphismProperty.lean]: I think the whitespace linter prefers it this way, my bad.
```suggestion
    letI t : IsTerminal X := (ObjectProperty.limitsOfShape_isEmpty_iff _ _ _ |>.mp p).some
```

File: Mathlib/CategoryTheory/Limits/MorphismProperty.lean [hunk 4]
```diff
@@ -132,6 +130,42 @@ end
...
 section
 
+variable {A : Type*} [Category* A] {L : A ⥤ T}
+
+instance StructuredArrow.closedUnderColimitsOfShape_discrete_empty [L.Faithful] [L.Full] {Y : A}
+    [P.ContainsIdentities] [P.RespectsIso] :
+    (P.structuredArrowObj L (X := L.obj Y)).IsClosedUnderColimitsOfShape (Discrete PEmpty.{1}) where
+  colimitsOfShape_le := by
+    rintro X p
+    letI t : IsInitial X := (ObjectProperty.colimitsOfShape_isEmpty_iff _ _ _|>.mp p).some
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Limits/MorphismProperty.lean]:
```suggestion
    letI t : IsInitial X := (ObjectProperty.colimitsOfShape_isEmpty_iff _ _ _ |>.mp p).some
```

**Review by robin-carlier — COMMENTED** [review]
Thanks!

maintainer delegate

**Comment by joelriou** [comment]
Thanks!

bors merge
